US06953806B2
A solution of 4.02 g (14.9 mmol) trans-[2-(4-formyl-cyclohexyl)-ethyl]-methyl-carbamic acid tert-butyl ester and 5.47 g (14.9 mmol) of (triphenyl-phosphoranylidene)-acetic acid ethyl ester in 40 ml of dichloromethane was stirred at room temperature for 60 hours. After concentration under reduced pressure, the crude product was chromatographed on silica gel with a 9:1 v/v mixture of hexane and ethylacetate as the eluent giving 3.82 g (75.4%) of pure trans-3-{4-[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-cyclohexyl}-(E)-acrylic acid ethyl ester as colorless viscous oil, MS: 340 (MH+).

reactant | trans-[2-(4-formyl-cyclohexyl)-ethyl]-methyl-carbamic acid tert-butyl ester | 14.9 mmol, 4.02 g | C(C)(C)(C)OC(N(C)CC[C@@H]1CC[C@H](CC1)C=O)=O | C15H27NO3
reactant | (triphenyl-phosphoranylidene)-acetic acid ethyl ester | 14.9 mmol, 5.47 g | C(C)OC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H21O2P
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | trans-3-{4-[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-cyclohexyl}-(E)-acrylic acid ethyl ester | 3.82 g, 75.4% | C(C)OC(\C=C\[C@@H]1CC[C@H](CC1)CCN(C)C(=O)OC(C)(C)C)=O | C19H33NO4
